US05955471
To 50 mL dichloromethane solution containing (S)-3-hydroxymethy-1,2,3,4-tetrahydroisoquinoline (4.53 g, 27.75 mmol) was added di-tert-butyl dicarbonate (5.45 g, 25.0 mmol, 0.9 eq) and the reaction mixture was stirred for 2 hours until no gas bubbling was observed. The reaction mixture was washed with 0.5 N HCl (50 mL) followed by brine (50 mL) to remove the residual starting material. After drying wth MgSO4 and filtration the, dichloromethane mixture was evaporated to yield crude (S)-N-tert-Butyloxycarbonyl-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline. The crude N-tert-Butyloxycarbonyl-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline was redissolved in 100 mL tetrahydrofuran. NaH (60%, 1.22 g) was added portion by portion to the solution at 0° C. and after 30 min stirring at room temperature, MeNCS (2.23 g) was added and the mixture was stirred for 2 h at rt. Brine (50 mL) was added to the mixture to quench the reaction and after evaporation of volatile component in vacuo, it was extracted with dichloromethane (50 mL×2) and combined layer was dried (MgSO4), filtered, evaporated. The resulting material was chromatographed with hexane-EtOAc (4:1) mixture over SiO2 to provide 7.07 g (81.8%) of (S)-N-tert-butyloxycarbonyl-3-(-Methyl-thiocarbamoyloxymethyl)-1,2,3,4tetrahydroisoquinoline. This material was dissolved in THF(30 mL) and 10 mL conc. HCl was added to the solution. One hour later, 5 mL of conc. HCl was added and stirred another 1 h until the reaction was finished. The reaction mixture was diluted with 30 mL of water and volatile components were evaporated. During the evaporation, desired product was precipitated as white solid. The solid was filtered and dried to yield the product as the hydrochloride salt (4.8 g).

reactant | (S)-3-hydroxymethy-1,2,3,4-tetrahydroisoquinoline | 27.75 mmol, 4.53 g | OC[C@H]1NCC2=CC=CC=C2C1 | C10H13NO
reactant | di-tert-butyl dicarbonate | 25.0 mmol, 5.45 g, 0.9 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-N-tert-Butyloxycarbonyl-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1CO | C15H21NO3
